US06498256B2
a) Preparation of 2-phenyl4-carboxymethyloxazoline (A5a)
567 mg (3.6 mmol) of L-serine methyl ester hydrochloride are dissolved in 0.5 ml of water, and 610 mg (3.6 mmol) of ethyl benzimidate in 10 ml of dichloromethane are added thereto. After 48 h at reflux, the mixture is concentrated to a volume of 50 ml of dichloromethane and washed with NaHCO3 (3×10 ml), and the aqueous phase is extracted with ethyl acetate (2×10 ml). Column chromatography (15×5 cm, hexane/ethyl acetate 1:1) yields 3.0 g of A2a (91% of theory).

reactant | L-serine methyl ester hydrochloride | 3.6 mmol, 567 mg | Cl.COC([C@@H](N)CO)=O
reactant | ethyl benzimidate | 3.6 mmol, 610 mg | C(C1=CC=CC=C1)(OCC)=N | C9H11NO
solvent | water | 0.5 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-phenyl4-carboxymethyloxazoline | C1(=CC=CC=C1)C=1OCC(N1)CC(=O)O | C11H11NO3
